* C:\Users\Admin\Downloads\Draft2 1 (2).asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 1.8
M3 N001 N001 N002 N003 CMOSP l=0.9u w=9u
M4 N005 N001 N002 N004 CMOSP l=0.9u w=9u
M5 V_out N005 N002 N007 CMOSP l=0.9u w=16.29u
M1 N001 N011 N012 N009 CMOSN l=0.9u w=3.913u
M2 N005 N006 N012 N010 CMOSN l=0.9u w=3.913u
Mo N012 N013 0 0 CMOSN l=0.7u w=8.8264u
Mi N013 N013 0 N015 CMOSN l=0.9u w=7.8264u
M6 V_out N013 0 0 CMOSN l=0.9u w=8.8264u
I1 N002 N013 40µ
V3 N006 N014 SINE(0 -0.1m 1k) AC 1
V4 N014 0 0.9
CL V_out 0 10p
V2 N011 N014 SINE(0 0.1m 1k) AC 1 180
R3 N005 N008 10k
C1 V_out N008 2.2p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Admin\AppData\Local\LTspice\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
* .tran 10m
* .ac dec 50 1 1G
.op
.backanno
.end
